US03998959
Preparation of 4,5,6,7-Tetrahydro-7-methoxybenzo[b]thien-4-ylacetamide
Eight g (37.86 mm) of 4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylacetamide and methyl iodide (28 ml, 0.45 M) are stirred in tetrahydrofuran (160 ml). The suspension is treated with silver oxide (60 g, 0.259 M) added in portions over a period of 5 hours. The reaction mixture is stirred overnight, filtered through celite, the cake is washed with tetrahydrofuran (2 × 100 ml) and dichloromethane (100 ml) and the filtrate evaporated to afford the crude title compound as a yellow-orange solid (8.1 g, 95% Y) m.p. 108° C-113° C dec. Two recrystallizations from acetone/hexane afford the analytical specimen, m.p. 124° C-126° C dec.

reactant | 4,5,6,7-tetrahydro-7-hydroxybenzo[b]thien-4-ylacetamide | OC1CCC(C2=C1SC=C2)CC(=O)N | C10H13NO2S
reactant | methyl iodide | 0.45 M, 28 ml | CI | CH3I
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
catalyst | silver oxide | 0.259 M, 60 g | [Ag]=O
product | 4,5,6,7-Tetrahydro-7-methoxybenzo[b]thien-4-ylacetamide | 8.1 g, 95% | COC1CCC(C2=C1SC=C2)CC(=O)N | C11H15NO2S
